US06964979B2
5-Bromo-2-fluoroaniline
Iron powder (9.3 g, 0.166 mM) and ammonium chloride (1.7 g, 0.032 mM) were stirred in water (42 ml) at 100° C. for 30 minutes. Commercially available 2-nitro 4-bromo fluorobenzene (9.2 g, 0.42 mM) was added drop wise to the above solution over a period of 45 minutes. The reaction was stirred at 100° C. for an additional five hours. Water was removed in vacuo. The resultant crude solution was stirred in ethyl acetate (100 mL) for 20 minutes and the organic solution was decanted off. This wash was repeated two more times. The organic layers were combined, dried (MgSO4), passed through a plug of SiO2, and concentrated to afford 4.2 g (53% yield) of the desired product as a red oil. The product was used without further purification. NMR (CHCl3) δ 3.78 (bs, 2H); 6.65-7.07(m, 3H).

reactant | ammonium chloride | 0.032 mM, 1.7 g | [Cl-].[NH4+]
reactant | 2-nitro 4-bromo fluorobenzene | 0.42 mM, 9.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)Br)F | C6H3BrFNO2
solvent | water | 42 ml | O | H2O
catalyst | Iron | 0.166 mM, 9.3 g | [Fe] | Fe
product | 5-Bromo-2-fluoroaniline | 4.2 g, 53% yield | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
